US08404679B2
4-Chloro-N-[(3RS,4SR)-1-(1-cyclopropylmethyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-N-methyl-3-trifluoromethyl-benzamide
In analogy to the procedure described for the synthesis of example 87 (step c), the title compound 4-chloro-N-[(3RS,4SR)-1-(1-cyclopropylmethyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-N-methyl-3-trifluoromethyl-benzamide was prepared from (1-cyclopropylmethyl-piperidin-4-yl)-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-methanone instead of N-[(3RS,4SR)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide using 4-chloro-3-(trifluoromethyl)benzoic acid instead of 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid and was obtained as a white foam. MS m/e: 616.3 [M]+.

reactant | (1-cyclopropylmethyl-piperidin-4-yl)-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-methanone | C1(CC1)CN1CCC(CC1)C(=O)N1CC(C(C1)NC)C1=CC(=C(C=C1)Cl)Cl | C21H29Cl2N3O
reactant | 4-chloro-3-(trifluoromethyl)benzoic acid | ClC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H4ClF3O2
product | 4-chloro-N-[(3RS,4SR)-1-(1-cyclopropylmethyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-N-methyl-3-trifluoromethyl-benzamide | ClC1=C(C=C(C(=O)N(C)C2CN(CC2C2=CC(=C(C=C2)Cl)Cl)C(=O)C2CCN(CC2)CC2CC2)C=C1)C(F)(F)F | C29H31Cl3F3N3O2
